US04564612
To an aqueous solution (200 ml) of 1.4 g of sodium carbonate are added 2.9 g of S-(o-nitrophenyl)-L-cysteine and 3.5 g of N-ethoxycarbonylphthalimide. After being stirred at room temperature for 5 hours, the reaction mixture is filtered to remove the insoluble substance, and the filtrate is made weakly acid with concentrated hydrochloric acid. The deposited crystals are collected by filtration and recrystallized from 30 ml of ethanol to give 3.6 g of 3-(o-nitrophenyl)thio-2(R)-phthalimidopropionic acid as pale yellow needles.

reactant | S-(o-nitrophenyl)-L-cysteine | 2.9 g | [N+](=O)([O-])C1=C(C=CC=C1)SC[C@H](N)C(=O)O | C9H10N2O4S
reactant | N-ethoxycarbonylphthalimide | 3.5 g | C(C)OC(=O)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | sodium carbonate | 200 ml, 1.4 g | C([O-])([O-])=O.[Na+].[Na+]
product | 3-(o-nitrophenyl)thio-2(R)-phthalimidopropionic acid | 3.6 g | [N+](=O)([O-])C1=C(C=CC=C1)SC[C@@H](C(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C17H12N2O6S
